US06762315B1
Preparation of methyl 4″-n-pentoxy-[1,1′:4′,1″]-terphenyl-4-carboxylate
33.8 g (0.1 mol) of methyl 4′-iodobiphenyl-4-carboxylate are introduced together with 29.3 g (0.125 mol) of glycol ester of 4-n-pentoxyphenylboronic acid, 70 mg of bis(triphenylphosphine)palladium dichloride and 15.9 g (0.15 mol) of sodium carbonate into 300 ml of DMF and stirred at 80° C. for 12 hours. After filtration and washing with water, the dried residue is recrystallized from DMF. This affords 20.5 g (45%) of methyl 4″-n-pentoxy-[1,1′:4′,1″]-terphenyl-4-carboxylate of melting point 248° C.

reactant | methyl 4′-iodobiphenyl-4-carboxylate | 0.1 mol, 33.8 g | IC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC | C14H11IO2
reactant | 4-n-pentoxyphenylboronic acid | C(CCCC)OC1=CC=C(C=C1)B(O)O | C11H17BO3
reactant | sodium carbonate | 0.15 mol, 15.9 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium dichloride | 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | methyl 4″-n-pentoxy-[1,1′:4′,1″]-terphenyl-4-carboxylate | C(CCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC | C25H26O3
